US05426119
7-(4-(2-(4-Fluorobenzenesulphonylamino)ethyl)phenyl)-7-(3-pyridyl)heptanoic acid
Prepared analogously to Example 13 from 7-(4-(2-aminoethyl)phenyl)-7-(3-pyridyl)heptanoic acid and 4-fluorobenzenesulphonic acid chloride. Yield: 66% of theory, Resin, Rf value: 0.20 (silica gel: chloroform/methanol=10:1) C26H29FN2O4S (484.6) Calculated: C 64.44 H 6.03 N 5.72 Found: 64.48 5.99 5.72

reactant | 7-(4-(2-aminoethyl)phenyl)-7-(3-pyridyl)heptanoic acid | NCCC1=CC=C(C=C1)C(CCCCCC(=O)O)C=1C=NC=CC1 | C20H26N2O2
reactant | 4-fluorobenzenesulphonic acid chloride | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
product | 7-(4-(2-(4-Fluorobenzenesulphonylamino)ethyl)phenyl)-7-(3-pyridyl)heptanoic acid | Yield: 66% | FC1=CC=C(C=C1)S(=O)(=O)NCCC1=CC=C(C=C1)C(CCCCCC(=O)O)C=1C=NC=CC1 | C26H29FN2O4S
